US09315475B2
Step 2: Preparation of tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-[(4-phenyl-1H-1,2,3-triazol-1-yl)methyl]morpholine-4-carboxylate
To a solution of tert-butyl (2R,5R)-5-(azidomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq.) in tetrahydrofuran (0.033M) were added phenylacetylene (3.9 eq.) and Hunig's base (5 eq.). Nitrogen was then bubbled for 5 minutes through the reaction mixture which was placed in a sealed tube. Copper(I) iodide (1.5 eq.) was added to the reaction mixture and the temperature was raised to 70° C. for 16 hrs. The reaction mixture was evaporated to dryness and the evaporation residue was purified by automated silica gel flash chromatography system eluted with a gradient 0% to 10% of MeOH/CH2Cl2.

reactant | tert-butyl (2R,5R)-5-(azidomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq. | N(=[N+]=[N-])C[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H42N6O6
reactant | phenylacetylene | 3.9 eq. | C1(=CC=CC=C1)C#C | C8H6
reactant | Hunig's base | 5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 0.033M | O1CCCC1 | C4H8O
catalyst | Copper(I) iodide | 1.5 eq. | [Cu]I
product | tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-[(4-phenyl-1H-1,2,3-triazol-1-yl)methyl]morpholine-4-carboxylate | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CN1N=NC(=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C43H48N6O6
